US07572808B2
B. Preparation of 7-(4-chlorophenyl)-5-methyl-8-(pyridin-4-yl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
The title compound (20 mg, 81%) as a light yellow powder was prepared from 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (25 mg, 0.05 mmol) by procedures analogous to those used for the preparation of 7-(4-chlorophenyl)-5-methyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one. HPLC/MS: retention time=2.92 min, [M+H]+=496.3.

reactant | 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.05 mmol, 25 mg | BrC=1C=2N(C(=CC1C1=CC=C(C=C1)Cl)C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C20H13BrClF3N4O
reactant | 7-(4-chlorophenyl)-5-methyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C(=C1)C)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O)C2=CC=NC=C2 | C26H19ClF3N5O
product | 7-(4-chlorophenyl)-5-methyl-8-(pyridin-4-yl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 20 mg, 81% | ClC1=CC=C(C=C1)C1=C(C=2N(C(=C1)C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=NC=C2 | C25H17ClF3N5O
